Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Topamax / Depakote / Penicillins
 
Attending: ___
 
Chief Complaint:
scheduled LTM admission
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ year old female with a past medical
history of seizure disorder on Keppra and Tegretol followed by
Dr. ___ who is transferred from OSH this evening for EEG
long term monitoring for increased seizure frequency.

As detailed below, most of her prior seizures consisted of being
"out of it," and she has also had very infrequent GTCs (2
seizures in ___, prior to that last GTC had been in ___. 
Prior
to this current presentation, she had been on Keppra 750mg BID 
as
well as Tegretol XR 450mg BID.

She had been seizure free for approxiamately 18 months. However,
3 days prior to admission to ___ (admitted ___, she had 
a
witnessed tonic-clonic seizure for which she was brought to the
___. There, they increased her Keppra dose from 750mg BID 
to
___ BID and discharged her home with outpatient follow up.
Then, on the ___, she planned to see her PCP, but went to ___ first, and was brought to the ___ after having 
a
seizure in the parking lot there. Per the patient she had had
continued seizures characterized by facial twitching, blinking,
and confusion (however per records, she remained responsive
through them), then had to sit down in the parking lot and had a
lot of trouble getting up, thus EMS was called by bystanders. 
She
was admitted to the floor. While on the floor, she had multiple
tonic-clonic movements on both sides of her body, and remained
responsive through these events. She also had eye blinking,
staring, and unresponsiveness for up to 2 minutes. She received 
a
total of 2mg ativan while on the floor, as well as an IV load of
Keppra (per neurology note, unknown dose). Tegretol level noted
to be slightly high at 13.6 and one dose was held (night of 
___.
A general lab workup was normal. However, due to the frequency 
of
these events, she was transferred to the MICU.

Neurology was consulted at this point. Exam notable for anxiety,
mild right esophoria, mild asterixis and slight dysmetria.
Reported to have episodes of feeling like she was "floating 
above
her bed." It was recommended to continue current Tegretol dose
and Keppra at 1g BID. Dr. ___ was contacted and it was
recommended that she be transferred to ___ for cvEEG
monitoring.

SEIZURE TYPES
1. GTCs - 2 seizures in ___, prior to that last GTC had been in
___.
2. COMPLEX PARTIAL SEIZURES - Last in ___ (~2/year) -
feeling "half there and half not," once in a store screamed and
then fell down, once while driving could not speak x 1 minute
then came back to baseline
3. PARTIAL SEIZURES - "feeling out of it" last in ___.

MEDICATION HISTORY
- KEPPRA - initially sedating. Could not tolerate the generic
form because she felt shaky and presyncopal.
- ZONEGRAIN - Ineffective
- TRILEPTAL - generic ineffective, and Na to 121 requiring
hospitalization
- TOPAMAX - memory difficulties

**switched from Trileptal to Tegretol XR 400 mg bid last ___,
?due to hyponatremia.

**in past, got seizures following her period and used Keppra
750mg BID during period and 500mg BID during the rest of the
month, until it was increased to 750mg BID following her last
seizure.

On neuro ROS, the pt denies headache, loss of vision, blurred
vision, diplopia, dysarthria, dysphagia, lightheadedness,
vertigo, tinnitus or hearing difficulty. Denies difficulties
producing or comprehending speech.  Denies focal weakness,
numbness, parasthesiae. No bowel or bladder incontinence or
retention. Denies difficulty with gait.
 
On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel or bladder habits.  
No
dysuria.  Denies arthralgias or myalgias. Denies rash.

 
Past Medical History:
- Seizure disorder
- Hypothyroidism
- Raynauds
- Fibromyalgia
- OCD, depression
- IBS

 
Social History:
___
Family History:
- Paternal grandfather with epilepsy  
- Uncle and aunt with RA, uncle with thyroid disease
- grandmother with osteoarthritis.  Her uncle also has thyroid 
disease.
- Dad with depression

 
Physical Exam:
Admission Physical Exam:
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in 
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses 
ororganomegaly noted.
Extremities: No C/C/E bilaterally, 2+ radial, DP pulses 
bilaterally.
Skin: no rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history 
without difficulty. Attentive, able to name ___ backward without 
difficulty. Language is fluent with intact repetition and 
comprehension. Normal prosody. There were no paraphasic errors. 
Pt was able to name both high and low frequency objects.  Able 
to read without difficulty. Speech was not dysarthric. Able to
follow both midline and appendicular commands. The pt had good 
knowledge of current events. There was no evidence of apraxia or 
neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm and brisk. VFF to confrontation. Funduscopic
exam revealed no papilledema, exudates, or hemorrhages.
III, IV, VI: EOMI without nystagmus. Normal saccades.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift 
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis 
noted.

  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5
-Sensory: No deficits to light touch, pinprick, cold sensation, 
vibratory sense, proprioception throughout. No extinction to 
DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was flexor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.

-Gait: Not tested.

Discharge Physical Exam: no significant change
 
Pertinent Results:
ADMISSION LABS:
___ 04:50AM BLOOD WBC-4.4 RBC-4.20 Hgb-12.7 Hct-37.8 MCV-90 
MCH-30.3 MCHC-33.6 RDW-12.5 Plt ___
___ 04:50AM BLOOD Glucose-109* UreaN-16 Creat-0.7 Na-137 
K-4.1 Cl-104 HCO3-24 AnGap-13
___ 04:50AM BLOOD ALT-18 AST-21 LD(LDH)-134 AlkPhos-64 
TotBili-0.2
___ 04:50AM BLOOD Albumin-4.0 Calcium-8.9 Phos-4.0 Mg-2.1

EEG: final report pending.

 
Brief Hospital Course:
___ with a history of seizure disorder who presented for 
characterization of recent flare of spells.

She had myriad of pushbutton events, but there was no consistent 
semiology and no EEG correlates for these.  Please refer to the 
OMR note written by Dr. ___ further description of her 
EEG montoring.  Multiple discussions were held with the patient 
regarding the possibility of pseudoseizures and the impact of 
stress and emotional triggers on the frequency of non-epileptic 
events.  She was seen by psychiatry who recommended she continue 
therapy with her outpatient therapist.  Her primary Neurologist, 
Dr. ___ increasing her Keppra from 750mg BID 
to ___ BID.  Otherwise, no other changes were made to her 
medications and she continued on Tegretol.  She will follow up 
with Dr. ___ as an outpatient.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Carbamazepine (Extended-Release) 400 mg PO BID 
2. Gabapentin 100 mg PO TID 
3. LeVETiracetam 750 mg PO BID 
4. Levothyroxine Sodium 100 mcg PO DAILY 
5. Cetirizine 10 mg oral daily 

 
Discharge Medications:
1. Gabapentin 100 mg PO TID 
2. Carbamazepine (Extended-Release) 400 mg PO BID 
3. Cetirizine 10 mg oral daily 
4. Levothyroxine Sodium 100 mcg PO DAILY 
5. LeVETiracetam 1250 mg PO BID BRAND NAME ONLY 
RX *levetiracetam 250 mg 5 tablet(s) by mouth twice a day Disp 
#*180 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Seizure disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

You were admitted to ___ on 
___ ___ due to frequent episodes 
concerning for seizure. We placed you on EEG monitoring and did 
not find any abnormalities to correspond with these episodes. 
Sometimes people with epilepsy can have other spells that look 
like seizures but are not associated with any abnormal 
electrical activity in the brain. These can often be triggered 
by factors such as stress or anxiety. We recommend that you 
follow up with Dr. ___ on discharge for further 
management.

We made the following changes to your medications:
Increased Keppra to 1250mg twice a day

You should continue to take your Tegretol XR 400mg twice a day 
and the rest of your medications as prescribed.

If you experience any of the below listed danger signs, please 
call your doctor or go to the nearest Emergency Department.

It was a pleasure taking care of you during your hospital stay!
 
Followup Instructions:
___